US07169778B2
8. 5-Amino-4-(ethylamino)-2-[(pyridin-4-yl)amino]pyrimidine
Hydrogenation of 4-(ethylamino)-2-[(pyridin4-yl)amino]-5-nitropyrimidine (from Example 2(8) above) over Pd/C gave the title compound as a solid.

reactant | 4-(ethylamino)-2-[(pyridin4-yl)amino]-5-nitropyrimidine | C(C)NC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=NC=C1 | C11H12N6O2
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-4-(ethylamino)-2-[(pyridin-4-yl)amino]pyrimidine | NC=1C(=NC(=NC1)NC1=CC=NC=C1)NCC | C11H14N6
